US05869485
5-Phenyl-7-(3-hydroxyphenyl)-4-aminopyrrolo[2,3-d]pyrimidine
2.61 g of 5-phenyl-7-(3-benzyloxyphenyl)-4-aminopyrrolo[2,3-d]pyrimidine (Ex. 11) and 1.0 g of palladium on carbon 10% are stirred at 40° C. for 30 h in 100 ml of THF until the amount of hydrogen theoretically required has been consumed. After cooling to RT, the mixture is filtered and the filtrate is concentrated in an RE. The residue is slurried with ether and the crystals are filtered off. Recrystallization from methylene chloride/ethanol and from chloroform does not give a pure product. After chromatography on silica gel (methylene chloride/methanol containing NH3 (4N) 92:8), the product-containing fractions are concentrated. The residue is dissolved in hot chloroform, the solution is cooled to 0° C. and the crystals are filtered off. After filtration and drying under HV, pure 5-phenyl-7-(3-hydroxyphenyl)-4-aminopyrrolo[2,3-d]pyrimidine having a melting point of 227°-228° C. is obtained. 1H--NMR (d6 -DMSO): delta (ppm)=6.2 (br. s, 2H), 6.8 (br. d, 1H), 7.2-7.4 (m, 4H), 7.5-7.6 (m, 4H), 7.7 (s, 1H), 8.2 (s, 1H), 9.8 (s, 1H).

reactant | 5-phenyl-7-(3-benzyloxyphenyl)-4-aminopyrrolo[2,3-d]pyrimidine | 2.61 g | C1(=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C25H20N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-Phenyl-7-(3-hydroxyphenyl)-4-aminopyrrolo[2,3-d]pyrimidine | C1(=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)O | C18H14N4O
